US05166204
11.3 ml of concentrated hydrochloric acid and 12 ml of water were added to 7.90 g of N-(2-dimethylaminoethyl)-4-aminophthalimide. The mixture was cooled to 0° C. Thereto was dropwise added a solution of 2.34 g of sodium nitrite dissolved in 5 ml of water, in 15 minutes with stirring. The mixture was added to a mixture of 21.3 g of sodium sulfite, 50 ml of water and 20 g of ice, in one portion. The resulting mixture was heated to 60° C., stirred at the same temperature for 15 minutes, cooled to room temperature, and adjusted to pH 1.5 with 6N hydrochloric acid. The solvent was removed by distillation under reduced pressure. The residue was mixed with 50 ml of acetic acid, and the mixture was concentrated to dryness under reduced pressure. This procedure was conducted two more times to remove water. To the residue were added 130 ml of acetic acid and 6.64 g of cyclohexanone, and the mixture was refluxed for 2 hours. While the mixture was hot, the resulting insoluble material was removed by filtration. The filtrate was concentrated to dryness under reduced pressure. The residue was mixed with 200 ml of ethyl acetate and 200 ml of water. The mixture was adjusted to pH 7.5 with an aqueous saturated sodium hydrogencarbonate solution. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: chloroform/methanol=1/0 to 10/1) to obtain two fractions. The first obtained fraction was concentrated to dryness under reduced pressure. The residue was recrystallized from toluene to obtain 180 mg (yield: 1.7%) of N-(2-dimethylaminoethyl)-5,6,7,8-tetrahydrocarbazole-3,4-dicarboximide as yellow needles. The later obtained fraction was concentrated to dryness under reduced pressure. The residue was recrystallized from toluene to obtain 1.60 g (yield: 15%) of N-(2-dimethylaminoethyl)-5,6,7,8-tetrahydrocarbazole-2,3-dicarboximide as light yellow needles.

reactant | hydrochloric acid | 11.3 ml | Cl | ClH
reactant | N-(2-dimethylaminoethyl)-4-aminophthalimide | 7.90 g | CN(CCN1C(C=2C(C1=O)=CC(=CC2)N)=O)C | C12H15N3O2
reactant | sodium nitrite | 2.34 g | N(=O)[O-].[Na+]
reactant | sodium sulfite | 21.3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | N-(2-dimethylaminoethyl)-5,6,7,8-tetrahydrocarbazole-3,4-dicarboximide | 180 mg, yield: 1.7% | CN(CCN1C(=O)C=2C=CC=3NC=4CCCCC4C3C2C1=O)C | C18H21N3O2
